US04333937
A solution of 50 g of 3,4,5-trimethoxybenzoic acid in 500 ml dry methanol containing 4.8 ml of conc. sulfuric acid was refluxed under anhydrous condition for 18 hr and concentrated to half the volume. The solution was poured into ice water and extracted with methylene chloride. The organic extract was washed with cold 0.5 N sodium hydroxide and water, dried over sodium sulfate, evaporated and crystallized from hexane to give 3,4,5-trimethoxybenzoic acid methyl ester, mp 65°-66° C.

reactant | 3,4,5-trimethoxybenzoic acid | 50 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 500 ml | CO | CH4O
product | 3,4,5-trimethoxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C11H14O5
